US09193693B2
Step 2. 3-(4-Fluorophenyl)-2-(4-(4-methoxyphenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(4-fluorophenyl)-2-(4-(4-methoxyphenyl)piperidin-1-yl)quinoxaline-6-carboxylate (123.9 mg, 0.24 mmol, 1.00 equiv, 93%) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (52.6 mg, 1.31 mmol, 5.00 equiv) in water (3 mL), which was added dropwise with stirring. The resulting solution was stirred for overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrochloric acid. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 60 mg (52%) of 3-(4-fluorophenyl)-2-(4-(4-methoxyphenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-fluorophenyl)-2-(4-(4-methoxyphenyl)piperidin-1-yl)quinoxaline-6-carboxylate | 0.24 mmol, 123.9 mg, 1.00 equiv | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)N1CCC(CC1)C1=CC=C(C=C1)OC | C28H26FN3O3
reactant | sodium hydroxide | 1.31 mmol, 52.6 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 3-(4-Fluorophenyl)-2-(4-(4-methoxyphenyl)piperidin-1-yl)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)N1CCC(CC1)C1=CC=C(C=C1)OC | C27H24FN3O3
